US05283355
Chloranil (0.06 mole) and sodium hydrogen carbonate (0.075 mole) were added to 300 ml of methylethylketone (MEK). the mixture was heated to 55° C. before adding iso-propanol (0.5 mole) dropwise with stirring. When the reaction was complete (as judged by HPLC) the MEK solvent was removed from the product mixture under vacuum. The resultant orange gum was recrystallised from petroleum ether to give 2,3,5-trichloro-6-isopropoxy-1,4-benzoquinone as product.

reactant | Chloranil | 0.06 mole | C1(=C(C(=O)C(=C(C1=O)Cl)Cl)Cl)Cl | C6Cl4O2
reactant | sodium hydrogen carbonate | 0.075 mole | C(O)([O-])=O.[Na+]
reactant | iso-propanol | 0.5 mole | C(C)(C)O | C3H8O
solvent | MEK | CC(=O)CC | C4H8O
solvent | methylethylketone | 300 ml | CC(=O)CC | C4H8O
product | 2,3,5-trichloro-6-isopropoxy-1,4-benzoquinone | ClC=1C(C(=C(C(C1Cl)=O)Cl)OC(C)C)=O | C9H7Cl3O3
